US04293702
4-Fluorobenzothiazolone (4.23 g, 0.025 mole) was dissolved in a solution of sodium hydroxide (1.60 g, 0.0375 mole) in water (100 c.c.), and tetra-n-butylammonium bromide (0.24 g, 7.5×10-4 mole) and toluene (40 c.c.) were added thereto. Dimethyl sulfate (4.70 g, 0.0375 mole) was added dropwise thereto at room temperature, and the mixture was stirred at room temperature for 1 hour, followed by phase-separation. The toluene layer was washed once with water, and the solvent was removed under reduced pressure to obtain 4.47 g of 4-fluoro-N-methylbenzothiazolone as white crystals. Yield 97.6%, purity 98.7%, m.p. 121.5°-123.5° C.

reactant | 4-Fluorobenzothiazolone | 0.025 mole, 4.23 g | FC1=CC=CC2=C1N=CS2=O | C7H4FNOS
reactant | sodium hydroxide | 0.0375 mole, 1.60 g | [OH-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | Dimethyl sulfate | 0.0375 mole, 4.70 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
catalyst | tetra-n-butylammonium bromide | 7.5×10-4 mole, 0.24 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-fluoro-N-methylbenzothiazolone | 4.47 g, Yield 97.6% | FC1=CC=CC2=C1N(CS2=O)C | C8H8FNOS
